* Z:\mnt\design.r\spice\examples\1550.asc
V1 IN 0 4.5
C1 N002 N006 .1µ
C2 OUT 0 10µ
R1 IN N004 10K
C3 N008 0 .1µ
R2 OUT N007 100K
R3 N007 0 100K
XU1 N001 N002 N003 OUT N006 0 0 N010 N011 N009 N008 N007 N005 N004 IN IN LTC1550
Rload OUT 0 1K
.tran 4m startup
.lib LTC1550.sub
.backanno
.end
